US05089506
1-(2-Benzobicyclo[2.2.1]heptenyl)piperidine (Compound No. 6)
2-Benzobicyclo[2.2.1]hepteneone (0.5 g) was combined with piperidine (1 ml), p-toluenesulfonic acid (0.1 g), and toluene (25 ml) and heated to reflux for 20 hours. The solution was concentrated on a rotary evaporator and the residue was distilled on a Kugelrohr apparatus (120° C. at 0.05 mm Hg). The distillate was combined with glacial acetic acid (10 ml) and sodium cyanoborohydride (0.5 g) and stirred at room temperature for 12 hours. The solution was made basic by the addition of 10% sodium hydroxide in water. The resulting mixture was extracted with ether (3×50 ml) and the combined ether layers were dried over magnesium sulfate and concentrated on a rotary evaporator. The residue was distilled on a Kugelrohr apparatus (120° C. at 0.05 mm Hg) to provide the product as a colorless oil. Analytical data are reported in Table I.

reactant | 2-Benzobicyclo[2.2.1]hepteneone | 0.5 g | C1=2C3=C(C(=CC1=O)C2)C=CC=C3 | C11H6O
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Benzobicyclo[2.2.1]heptenyl)piperidine | C=12C3=C(C(=CC1N1CCCCC1)C2)C=CC=C3 | C16H17N
